US04250186
10.75 gm (0.06 mol) of 2-(4-fluoro-phenylimino)-imidazolidine base were dissolved in 210 ml of chloroform, and the solution was dropwisely admixed with bromine at 10° C. while thoroughly stirring. A solid substance precipitated. The mixture was stirred for 30 minutes at 10° C., then suction-filtered, and the filter cake was thoroughly washed with ether and dried, yielding raw 2-(3-bromo-4-fluoro-phenyl-imino)-imidazolidine hydrobromide, m.p. 137°-139° C. The raw hydrobromide was dissolved in water, and the solution was fractionally extracted with ether at gradually increasing pH-values (stepwise alkalization with 2 N sodium hydroxide). The thin layer-chromatographically uniform ether extracts were combined, dried over magnesium sulfate, filtered and acidified with ethereal hydrochloric acid until acid to Congo red. A white substance separated out, which was collected by suction filtration, washed with ether and dried. Yield: 4.12 gm (23.3% of theory) of the hydrochloride, m.p. 182.5° C., Rf -value 0.7 in mobile phase 50 parts benzene, 40 parts dioxane, 5 parts concentrated ammonia, 5 parts ethanol. Carrier: silicagel with fluorescent pigment ZS; visualization; ultraviolet light and potassium platinate.

reactant | 2-(4-fluoro-phenylimino)-imidazolidine | 0.06 mol, 10.75 gm | FC1=CC=C(C=C1)N=C1NCCN1 | C9H10FN3
reactant | bromine | BrBr | Br2
solvent | chloroform | 210 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-bromo-4-fluoro-phenyl-imino)-imidazolidine hydrobromide | Br.BrC=1C=C(C=CC1F)N=C1NCCN1 | InChI=1S/C9H9BrFN3.BrH/c10-7-5-6(1-2-8(7)11)14-9-12-3-4-13-9;/h1-2,5H,3-4H2,(H2,12,13,14);1H
